US07960552B2
A 2.2 M solution of zinc(II)chloride (6.05 mL, 13.32 mmol) in diethyl ether was added to tin(II)chloride (2.53 g, 13.32 mmol) and activated 4 Å molecular sieve pellets (612.8 mg) under argon. Then, 5-bromo-2-nitro-benzaldehyde (612.8 mg, 2.66 mmol) and ethyl 2-oxobutanoate (346.7 mg, 2.66 mmol) in ethanol (13 mL) were added to the reaction mixture via canula. The mixture was heated at 70° C. in an oil bath for three hours, then allowed to cool to room temperature, and carefully quenched with saturated sodium bicarbonate. Ethyl acetate was added and the mixture was filtered through Celite®. The filtrate was extracted with ethyl acetate and the organic layer was dried over anhydrous magnesium sulfate, then filtered and concentrated. The residue was purified by silica gel chromatography eluting with 1:6 ethyl acetate:hexanes to give 137.9 mg (18%) of ethyl 6-bromo-3-methyl-2-quinolinecarboxylate as a solid. 1H NMR (400 MHz, d6-DMSO): δ 8.30 (s, 1H), 8.27 (d, J=2 Hz, 1H), 7.99 (d, J=9 Hz, 1H), 7.88 (dd, J=9, 2 Hz, 1H), 4.41 (q, J=7 Hz, 2H), 2.54 (s, 3H), 1.35 (t, J=7 Hz, 3H). ESI-LCMS m/z 294 (M+H)+.

reactant | tin(II)chloride | 13.32 mmol, 2.53 g | [Sn](Cl)Cl
reactant | 5-bromo-2-nitro-benzaldehyde | 2.66 mmol, 612.8 mg | BrC=1C=CC(=C(C=O)C1)[N+](=O)[O-] | C7H4BrNO3
reactant | ethyl 2-oxobutanoate | 2.66 mmol, 346.7 mg | O=C(C(=O)OCC)CC | C6H10O3
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ethanol | 13 mL | C(C)O | C2H6O
catalyst | zinc(II)chloride | 13.32 mmol, 6.05 mL | [Cl-].[Zn+2].[Cl-]
product | ethyl 6-bromo-3-methyl-2-quinolinecarboxylate | 137.9 mg, 18% | BrC=1C=C2C=C(C(=NC2=CC1)C(=O)OCC)C | C13H12BrNO2
